US09145391B2
A mixture of 4-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole (5 g, 21.6 mmol), ethyl [3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]acetate (6.5 g, 22.7 mmol), sodium carbonate (7 g, 64.8 mmol) and [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (0.513 g, 0.648 mmol) in dioxane (60 mL) and water (30 mL) was stirred at 80° C. for 14 hours. After allowing to cool to room temperature, ethyl acetate and water were added to the mixture, and the resultant mixture was filtered. The organic layer was separated, washed with brine, dried over Na2SO4, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to afford ethyl {3-[1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]phenyl}acetate as an oil.

reactant | 4-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole | 21.6 mmol, 5 g | BrC=1C=NN(C1)C1OCCCC1 | C8H11BrN2O
reactant | ethyl [3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]acetate | 22.7 mmol, 6.5 g | CC1(OB(OC1(C)C)C=1C=C(C=CC1)CC(=O)OCC)C | C16H23BO4
reactant | sodium carbonate | 64.8 mmol, 7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
solvent | water | 30 mL | O | H2O
catalyst | [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.648 mmol, 0.513 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.Cl[Pd]Cl.[Fe]
product | ethyl {3-[1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]phenyl}acetate | O1C(CCCC1)N1N=CC(=C1)C=1C=C(C=CC1)CC(=O)OCC | C18H22N2O3
